US04548944
(b) [N-Methyl-N-(3-acetyl-phenyl)-amino]-triphenyl phosphonium iodide
A solution of 140.2 gm of 3-acetylphenyliminotriphenyl phosphorane and 56.9 gm of methyl iodide in 525 ml of dry benzene was refluxed for 8 hours in an atmosphere of nitrogen. The mixture was cooled, and the precipitate was filtered off, washed with benzene and dried, yielding 120 gm of the title compound, m.p. 178°-180° C.

reactant | 3-acetylphenyliminotriphenyl phosphorane | 140.2 gm | C(C)(=O)C=1C=C(C=CC1)N=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22NOP
reactant | methyl iodide | 56.9 gm | CI | CH3I
solvent | benzene | 525 ml | C1=CC=CC=C1 | C6H6
product | [N-Methyl-N-(3-acetyl-phenyl)-amino]-triphenyl phosphonium iodide | 120 gm | [I-].CN(C1=CC(=CC=C1)C(C)=O)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H25NOP.HI/c1-22(29)23-13-12-14-24(21-23)28(2)30(25-15-6-3-7-16-25,26-17-8-4-9-18-26)27-19-10-5-11-20-27;/h3-21H,1-2H3;1H/q+1;/p-1
